2153-10-08 02:48:00 Physician Resident Progress Note
Chief Complaint: Abdominal Mass, Fevers, Witnessed Aspiration
   24 Hour Events:
   Since arrival to ICU:
   - given an additional .25mg ativan for nausea and anxiety
   - NGT placed, position confirmed
   - ABG 7.38/41/182
   - Lactate 1.7
   - CXR concerning for L-side aspiration
   - Added Vanc
   History obtained from Medical records
   Patient unable to provide history: Non-verbal at baseline
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-8**] 12:00 AM
   Metronidazole - [**2153-10-8**] 01:30 AM
   Infusions:
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2153-10-8**] 01:16 AM
   Other medications:
   Changes to medical and family history:
   [**Known firstname **] [**Known lastname 8791**] is a 25 yo male with severe cerebral palsy, non-verbal at
   baseline who was transferred from [**Hospital3 1492**] where he was being
   evaluated for Left foot swelling and incidentally found to have Hct of
   20. There was concern that his stools were melanotic. He was given 2
   units of PRBC, a PPI and transferred for further evaluation.
   .
   In the emergency department, initial vitals: 100.0 110 117/84 18 98%
   ra. He spiked a fever to 102 and had a leukocytosis of 33. He was given
   vancomycin 1 gm x1, Levofloxacin 750mg X1, Flagyl 500mg IV x1 to
   empirically cover both HAP and [**First Name8 (NamePattern2) **] [**Last Name (un) 4158**] abdominal process. He was also
   give NS 1L and ativan. For evaluation of his GIB, his NG lavage was
   negative, stool dark & guiaic positive but not obvious melena. His
   abdomen was rigid on exam so general surgery was conulted and a CT of
   the abd/pelvis was performed which showed a large mass in the right
   proximal colon and possilby a partial bowel obstruction. GI felt that
   surgery was not necessary urgently and requested that the patient have
   either a barium enema or a colonoscopy. The mass was noted to be
   obstructing the ureter and causing hydronephrosis in the right kidney.
   Urology was consulted and will see the patient this morning. He will
   likely need percutaneous nephrostomy tube placed by IR. His vital signs
   prior to transfer as as follows: 98.4 110 108/79 20 100% ra.
   .
   In conversation with his caregiver he had a change in behavior
   approximately 3 months ago when his mood seemed to become more labile.
   He was crying frequently and often reporting abdominal pain. He was
   admitted at [**Hospital3 **] and spent 3-4 weeks there. Per [**Hospital1 **] ED notes, he had 2 abd CT scans there without acute change, a
   bone marrow bx w/o myeloproliferative findings and pan cultures were
   persistently negative. The caregiver knows that he required blood
   transfusions but does not know of any diagnosis. He developed diarrhea
   2-3 weeks ago. He has had about a 40lb weight loss over the past few
   months despite a good appetite. He vomited (foodstuff; non-bloody) once
   on the day prior to admission and this is a new symptom for him. He is
   able to sign yes or no when asked questions. He reported pain in his
   right foot and his belly. He has had intermittent fevers for the past
   few weeks.
   .
   Since admission, the patient has been followed by general surgery, GI
   and urology.  The patient was originally put on cipro and flagyl and
   was transitioned to cefepime and flagyl.  An NGT was recommended for
   decompression which the patient had removed 4 times.  Pt was scheduled
   to have colonoscopy on Friday with Gen [**Doctor First Name 3**] on stand-by in case of a
   perforation but it was decided to hold off, continue antibiotics and
   repeat CT scan specifically trying to get contrast in the RLQ and also
   to assess renal issues.  Pt was also to have percutaneous nephrostomy
   tube placement for his right-sided hydronephrosis by IR but is was felt
   that poitioning could be an issues.  Tube placement was deferred unless
   he decompensates though he supposed to get a Mag S study on Monday.  Pt
   was also noted to have an IVC thrombosis for which he was started on a
   heparin drip.  Pt's diet was liberalized and he aspirated Ensure
   pudding this evening.  Pt briefly desatted to 80% on ra but O2 sats
   recovered with suctioning.  Pt tachycardic to the 140s with a
   respiratory rate to 34.  Pt was then transferred to the ICU for further
   management.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-8**] 02:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 124 (124 - 138) bpm
   BP: 124/93(100) {119/81(90) - 124/93(100)} mmHg
   RR: 24 (24 - 38) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 46.5 kg (admission): 46.5 kg
             Total In:
                                                                    511 mL
                                                                    711 mL
   PO:
             TF:
   IVF:
                                                                    511 mL
                                                                    711 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    710 mL
   Urine:
   710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    511 mL
                                                                      1 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: 7.38/41/182//0
   PaO2 / FiO2: 506
   Physical Examination
   General Appearance: No(t) No acute distress, Thin, Anxious, Cachectic
   Eyes / Conjunctiva: PERRL, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, Tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : Bilateral bases, No(t)
   Wheezes : , No(t) Diminished: )
   Abdominal: No(t) Soft, No(t) Non-tender, Bowel sounds present, Tender:
   , Tense
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand, wheelchair bound at
   baseline
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
        [image002.jpg]
                            [**2153-10-7**]  10:32 PM
   TCO2
   25
   Other labs: Lactic Acid:1.7 mmol/L
   Imaging: CT Abd [**10-7**] -
   1. Findings concerning for a mass in the ascending colon with
   associated
   small-bowel obstruction which has slightly increased since the prior
   examination as described above.
   2. Stable right hydroureteronephrosis with involvement of the right
   ureter by
   this tumor.
   3. No evidence of a pulmonary embolism.
   4. Soft tissue/secretions within the distal left main bronchus as well
   as
   left upper and lower lobe bronchi may represent aspiration. Scattered
   ground- glass opacities in both lungs may represent infection,
   inflammation or sequelae of aspiration.
   5. Compared to the priod study the filling defect in the IVC has
   resolved.
   CXR [**10-7**] -
   Microbiology: Stool [**10-4**] - MODERATE BLASTOCYSTIS HOMINIS.    CLINICAL
   SIGNIFICANCE UNCERTAIN.
   Assessment and Plan
   25M with cerebral oaksy admitted with GI bleed, leukocytosis anemia
   found to have a large abdominal mass concerning for infection (walled
   off missed appendiceal rupture) v malignancy (lymphoma v sarcoma)this
   has been complicated by right-sided hydronephrosis and an IVC
   thrombosis.
   .
   Abdominal Mass - Possible etiologies infection  missed appendiceal
   rupture) v malignancy (lymphoma v sarcoma). Felt to be a high risk for
   either surgery or colonoscopy.  Mass appears larger on remiaging
   today.  It is important at this point to obtain a tissue diagnosis.
   - team meeting with GI and gen [**Doctor First Name **] to come up with plan for tissue
   diagnosis.
   - Continue antibiotics
   - Will likely have to defer intervention for several days given
   compromised respiratory status
   - NGT, NPO
   - Monitor stool output
   - Continue TPN in effort to improve nutritional status to optimize
   surgical candidacy
   - CEA 4.7, borderline elevation
   .
   #. Small Bowel Obstruction - [**1-22**] abdominal mass.  Has been having
   extensive diarrhea.  BMs seemd to have diminished today, and have been
   more consistent with seepage.
   - NGT in place to low suction
   - NPO
   - Gen [**Doctor First Name **] following
   - Monitor fecal output
   - Serial abdominal exams
   - KUB if clinically worsens to r/o free air
   .
   #. Aspiration Pneumonia - Pt has witness aspiration this evening.
   Initially aspirated on Ensure pudding and subsequently on own vomitus.
   - Continue vanc, cefepime and flagyl.  Lactate 1.8.
   - NGT to suction
   - NPO
   - Continue IVFs.
   .
   #.  GI Bleed - Likely [**1-22**] intra-tumor hemmorhage though has been
   persitently anemic since presentation to OSH in [**Month (only) 93**] of this year.  s/p
   3 units pRBCs since presenting to OSH.
   - [**Hospital1 **] HCT
   - Active T&S
   - Tele
   - Continue PPI [**Hospital1 **]
   - GI and gen [**Doctor First Name **] following
   .
   #.  Hydronephrosis - Likely secondary to large right-sided mass.
   Urology following and has recommended IR-guided percutaneous drain
   placement.  However, Urology felt that it would be best to defer for
   renal decompensation given that he would he a difficult person to put a
   drain into given body habitus.
   - MAG 3 study Monday to evaluate renal function
   .
   #.  Hypernatremia - GI losses v fevers v high repiratory rate.  Have to
   way benefits of giving free water aling with that of giving volume
   given fevers, tachycardia and pneumonitis.  Therefore will continue to
   give D5 1/2NS for total of 2L.
   - Free water deficit ~1.8L
   - Urine osm, urine na
   .
   #.  Leukocytosis - Bone marrow biopsy at [**Hospital3 **] unrevealing.
   Could be ongoing infection.  Pt did also have UTI and blastocytosis
   infections.
   - Continue antibiotics
   - trend
   - f/u cultures
   .
   #.  IVC Thrombosis - Likely secondary to venous stasis from abdominal
   mass.  On Heparin gtt,  IVC now patent with therapy.
   - Continue heparin gtt for now
   - Remove compressive mass when possible
   .
   #. Blastocytosis in Stool -  Symptoms that have been reported to be
   associated with B. hominis infection include: diarrhea, nausea,
   anorexia, abdominal cramps, bloating, flatulence and fatigue. Watery
   diarrhea is usually described. Both acute and chronic diarrhea have
   been reported. Fever is usually absent.  Significance in this patient
   is unclear, should be adequately treated by flagyl.
   - Continue flagyl
   - Continue supportive fluids
   .
   #. Poor Nutritional Status - TPN for now
   .
   #. Cerebral Palsy - Continue acetominophen, morphine, PT
   - Determone why baclofen stopped and consider restarting
   FEN:
   .
   PPX:
   -DVT ppx with
   -Bowel regimen
   -Pain management with
   .
   ACCESS: PIV's
   .
   CODE STATUS: Full Code
   .
   EMERGENCY CONTACT:  Mother, [**Name (NI) 8792**] [**Name (NI) 8791**]
   .
   DISPOSITION:  Transfer back to floor in am if stable from a respiratory
   standpoint
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2153-10-09 08:03:00 Physician Resident Progress Note
Chief Complaint: Abdominal Pain, Diarrhea
   24 Hour Events:
   -fam meeting (pt's mom/dad, palliative care, interpreter) scheduled for
   [**10-9**] at 1030 AM
   -surgery felt not an operative candidate due to poor nutritional status
   & inability to heal an anastomosis or ostomy
   -GI deferred scope given acute decompensation
   -GU rec deferring PCN tube
   -changed morphine to dilaudid and uptitrated for increasing pain
   -1L LR bolus for persistent sinus tachycardia despite afebrile, resting
   comfortably
   -330 AM passed large clots (~1 cup) PR, hemodynamics stable, heparin
   gtt held
   History obtained from Medical records
   Patient unable to provide history: Non verbal at baseline
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-8**] 08:00 PM
   Cefipime - [**2153-10-8**] 10:14 PM
   Metronidazole - [**2153-10-9**] 12:27 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2153-10-8**] 10:00 AM
   Pantoprazole (Protonix) - [**2153-10-8**] 08:00 PM
   Lorazepam (Ativan) - [**2153-10-9**] 01:47 AM
   Hydromorphone (Dilaudid) - [**2153-10-9**] 05:58 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Unable to obtain but appears more comfortable.
   Flowsheet Data as of  [**2153-10-9**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.2
   HR: 158 (129 - 158) bpm
   BP: 127/74(86) {66/53(57) - 138/107(105)} mmHg
   RR: 33 (20 - 44) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 46.5 kg (admission): 46.5 kg
   Height: 65 Inch
             Total In:
                                                                  7,891 mL
                                                                  1,313 mL
   PO:
             TF:
   IVF:
                                                                  6,393 mL
                                                                    851 mL
   Blood products:
   Total out:
                                                                  4,195 mL
                                                                    790 mL
   Urine:
                                                                  4,195 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,696 mL
                                                                    523 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin,
   cachectic
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: No(t) Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender:
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   379 K/uL
   9.0 g/dL
   134 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.0 mEq/L
   13 mg/dL
   113 mEq/L
   142 mEq/L
   28.9 %
   42.7 K/uL
        [image002.jpg]
                            [**2153-10-7**]  10:32 PM
                            [**2153-10-8**]  03:09 AM
                            [**2153-10-8**]  04:58 AM
                            [**2153-10-8**]  01:14 PM
                            [**2153-10-8**]  07:52 PM
                            [**2153-10-9**]  03:40 AM
   WBC
   38.7
   41.6
   43.6
   42.7
   Hct
   29.6
   27.7
   28.6
   28.9
   Plt
   327
   325
   346
   379
   Cr
   0.9
   0.8
   0.7
   0.7
   0.6
   TCO2
   25
   Glucose
   [**Telephone/Fax (3) 8812**]94
   134
   Other labs: PT / PTT / INR:20.9/53.9/1.9, ALT / AST:[**11-9**], Alk Phos / T
   Bili:92/0.3, Differential-Neuts:90.8 %, Band:0.0 %, Lymph:5.2 %,
   Mono:3.6 %, Eos:0.2 %, Lactic Acid:1.5 mmol/L, Albumin:1.4 g/dL,
   LDH:489 IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   25M with cerebral palsy admitted with GI bleed with acute blood loss
   anemia, leukocytosis found to have a large abdominal mass concerning
   for infection (walled off missed appendiceal rupture) v malignancy
   (lymphoma v sarcoma), complicated by right-sided hydronephrosis and an
   IVC thrombosis.
   .
   #.  GI Bleed
 Acutely bleeding.  Likely [**1-22**] intra-tumor hemorrhage
   though has been persistently anemic since presentation to OSH in [**Month (only) 93**]
   of this year.  s/p 3 units pRBCs since presenting to OSH.
   - vitamin K
   - hold heparin gtt
   - serial HCT, stat HCT now
   - Active T&S
   - Transfuse 2 units PRBCs
   - Tele
   - Continue PPI [**Hospital1 **]
   - GI and gen [**Doctor First Name **] following
   .
   #. Abdominal Mass - Possible etiologies infection missed appendiceal
   rupture) v malignancy (lymphoma v sarcoma; CEA 4.7, borderline
   elevation). Felt to be a high risk for either surgery or colonoscopy.
   Mass appears larger on reimaging today.  It is important at this point
   to obtain a tissue diagnosis.  GI and general surgery have refused to
   intervene given patient's poor nutritional status.
   - team meeting with GI and gen [**Doctor First Name **] to come up with plan for tissue
   diagnosis.
   - Continue antibiotics
   - NPO
   - Replace NGT if nauseated
   - Monitor stool output
   - Continue TPN in effort to improve nutritional status to optimize
   surgical candidacy
   .
   #. Small Bowel Obstruction - [**1-22**] abdominal mass.  Has been having
   extensive diarrhea.  BMs seemed to have diminished today, and have been
   more consistent with seepage.
   - replace NGT if possible
   - NPO
   - Gen [**Doctor First Name **] following
   - Monitor fecal output
   - Serial abdominal exams
   - KUB if clinically worsens to r/o free air
   .
   #. Aspiration Pneumonia - Pt has witness aspiration this evening.
   Initially aspirated on Ensure pudding and subsequently on own vomitus.
   Lactate 1.8.
   - Continue vanc, cefepime and flagyl.
   - NPO
   - Continue IVFs.
   .
   #.  Hydronephrosis - Likely secondary to large right-sided mass.
   Urology following and has recommended IR-guided percutaneous drain
   placement.  However, Urology felt that it would be best to defer for
   renal decompensation given that he would he a difficult person to put a
   drain into given body habitus.
   - MAG 3 deferred
   .
   #.  Hypernatremia - GI losses v fevers v high repiratory rate.  Have to
   way benefits of giving free water aloing with that of giving volume
   given fevers, tachycardia and pneumonitis.  Therefore will continue to
   give D5 1/2NS.  Urine osms consistent with Complete DI.  Could be
   related to poor nutritional status, postobstruction hydronephrosis.
   - Free water deficit ~1.8L
   - Urine osm, urine na
   .
   #.  Leukocytosis - Bone marrow biopsy at [**Hospital3 **] unrevealing.
   Could be ongoing infection.  Pt did also have UTI and blastocytosis
   infections.
   - Continue antibiotics
   - trend
   - f/u cultures
   .
   #.  IVC Thrombosis - Likely secondary to venous stasis from abdominal
   mass.  On Heparin gtt,  IVC now patent with therapy.
   - Holding heparin in setting of GI bleed
   - Remove compressive mass when possible
   .
   #. Blastocytosis in Stool -  Symptoms that have been reported to be
   associated with B. hominis infection include: diarrhea, nausea,
   anorexia, abdominal cramps, bloating, flatulence and fatigue. Watery
   diarrhea is usually described. Both acute and chronic diarrhea have
   been reported. Fever is usually absent.  Significance in this patient
   is unclear, should be adequately treated by flagyl.
   - Continue flagyl
   - Continue supportive fluids
   .
   #. Poor Nutritional Status - TPN for now
   .
   #. Cerebral Palsy - Continue acetominophen, morphine, PT
   - Restarted baclofen once NGT in place
   EMERGENCY CONTACT:  Mother, [**Name (NI) 8792**] [**Name (NI) 8791**]
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2153-10-8**] 05:39 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2153-10-7**] 10:30 PM
   20 Gauge - [**2153-10-8**] 01:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting at 10:30AM , ICU consent signed
   Code status: Full code
   Disposition:ICU

2153-10-10 07:57:00 Physician Resident Progress Note
Chief Complaint: Abdominal Pain
   24 Hour Events:
   Pt started passing copius bright red blood per rectum, given vitamin K
   and 2 units pRBCs
   Family meeting held, patient made comfort measures only
   History obtained from Medical records
   Patient unable to provide history: Non-verbal at baseline
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-8**] 08:00 PM
   Cefipime - [**2153-10-8**] 10:14 PM
   Metronidazole - [**2153-10-9**] 12:27 AM
   Infusions:
   Hydromorphone (Dilaudid) - 1.5 mg/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2153-10-9**] 10:15 AM
   Lorazepam (Ativan) - [**2153-10-9**] 03:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-10**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 145 (129 - 145) bpm
   BP: 105/58(69) {105/58(69) - 129/102(105)} mmHg
   RR: 15 (11 - 43) insp/min
   SpO2: 68%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 46.5 kg (admission): 46.5 kg
   Height: 65 Inch
             Total In:
                                                                  2,238 mL
                                                                    101 mL
   PO:
             TF:
   IVF:
                                                                  1,489 mL
                                                                    101 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    210 mL
   Urine:
                                                                  1,350 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    888 mL
                                                                   -109 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 68%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   379 K/uL
   9.0 g/dL
   134 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.0 mEq/L
   13 mg/dL
   113 mEq/L
   142 mEq/L
   28.5 %
   42.7 K/uL
        [image002.jpg]
                            [**2153-10-7**]  10:32 PM
                            [**2153-10-8**]  03:09 AM
                            [**2153-10-8**]  04:58 AM
                            [**2153-10-8**]  01:14 PM
                            [**2153-10-8**]  07:52 PM
                            [**2153-10-9**]  03:40 AM
                            [**2153-10-9**]  10:21 AM
   WBC
   38.7
   41.6
   43.6
   42.7
   Hct
   29.6
   27.7
   28.6
   28.9
   28.5
   Plt
   327
   325
   346
   379
   Cr
   0.9
   0.8
   0.7
   0.7
   0.6
   TCO2
   25
   Glucose
   [**Telephone/Fax (3) 8812**]94
   134
   Other labs: PT / PTT / INR:20.9/53.9/1.9, ALT / AST:[**11-9**], Alk Phos / T
   Bili:92/0.3, Differential-Neuts:90.8 %, Band:0.0 %, Lymph:5.2 %,
   Mono:3.6 %, Eos:0.2 %, Lactic Acid:1.5 mmol/L, Albumin:1.4 g/dL,
   LDH:489 IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 COMFORT CARE (CMO, COMFORT MEASURES)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   - continue dilaudid drip
   - continue lorazepam prn
   - continue scopalomine
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2153-10-7**] 10:30 PM
   20 Gauge - [**2153-10-8**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Comfort measures only
   Disposition:Transfer to floor